US07598281B2
5.0 g of 3-dibenzylaminocyclohexylmethanol and 1.72 g of KOtBu were initially charged in PhCl, and 7.59 g of 4-iodomethyl-5-methyl-2-p-tolyloxazole were added a little at a time. At room temperature and under an atmosphere of argon, the mixture was stirred for 2 days. Another 1.0 g of KOtBu was added, and stirring of the mixture was continued. The reaction was then complete. For work-up, water and MTBE were added, the phases were separated and the organic phase was washed with water and sat. NaCl solution, dried over MgSO4 and concentrated. Chromatography of the residue on silica gel (heptane/ethyl acetate 10:1→3:1) gave 7.0 g of dibenzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]amine as a brown oil.

reactant | 3-dibenzylaminocyclohexylmethanol | 5.0 g | C(C1=CC=CC=C1)N(C1CC(CCC1)CO)CC1=CC=CC=C1 | C21H27NO
reactant | KOtBu | 1.72 g | CC(C)(C)[O-].[K+]
reactant | 4-iodomethyl-5-methyl-2-p-tolyloxazole | 7.59 g | ICC=1N=C(OC1C)C1=CC=C(C=C1)C | C12H12INO
reactant | KOtBu | 1.0 g | CC(C)(C)[O-].[K+]
reactant | water | O | H2O
solvent | PhCl | C1(=CC=CC=C1)Cl | C6H5Cl
solvent | MTBE | CC(C)(C)OC | C5H12O
product | dibenzyl-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxymethyl)cyclohexyl]amine | 7.0 g | C(C1=CC=CC=C1)N(C1CC(CCC1)COCC=1N=C(OC1C)C=1C=C(C=CC1)C)CC1=CC=CC=C1 | C33H38N2O2
